US05972937
1-[2-Thienylcarbamoyl]-5-methoxy-6-trifluoromethyl indoline (E48)
A mixture of 5-methoxy-6-trifluoromethyl-1-(5-bromo-2-thienyl) carbamoyl indoline (E48) (0.64 g, 1.5 mmol), sodium carbonate (1.1 g), pyridine-3-boronic acid (0.55 g, 4.5 mmol) and tetrakis triphenylphine palladium(0) (0.1 g) in dimethoxyethane/water (20 ml/5 ml) was heated to reflux overnight under argon. Extraction workup and chromatography afforded the title compound in 27% yield as a white solid, m.p. 240-244° C.

reactant | 5-methoxy-6-trifluoromethyl-1-(5-bromo-2-thienyl) carbamoyl indoline | 1.5 mmol, 0.64 g | COC=1C=C2CCN(C2=CC1C(F)(F)F)C(NC=1SC(=CC1)Br)=O | C15H12BrF3N2O2S
reactant | sodium carbonate | 1.1 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | pyridine-3-boronic acid | 4.5 mmol, 0.55 g | N1=CC(=CC=C1)B(O)O | C5H6BNO2
solvent | dimethoxyethane water | 20 ml | C(OC)COC.O
catalyst | tetrakis | 0.1 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-[2-Thienylcarbamoyl]-5-methoxy-6-trifluoromethyl indoline | 27% yield | S1C(=CC=C1)NC(=O)N1CCC2=CC(=C(C=C12)C(F)(F)F)OC | C15H13F3N2O2S
